Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ATYPICAL SQUAMOUS CELL 
 
Major Surgical or Invasive Procedure:
Cold Knife Conization

 
History of Present Illness:
 ___ G3P1 with a history of
high grade cervical dysplasia who has undergone 2 prior LEEP
procedures.  Her history is as follows:
___ NIL paps
___ pap ATYPICAL GLANDULAR CELLS - can not exclude High 
Grade
Squamous Intraepithelial Lesion in glands vs. glandular
dysplasia. 
___ LEEP with CIN3 +endocervical margin
___ LEEP with CIN2-3, focally + margin
___ Pap smear with atypical squamous cells of
undetermined significance favoring high-grade squamous intra-
epithelial lesion. 
___ colpo inadequate with neg bx, ECC high-grade
squamous intra-epithelial lesion.
___ LEEP with no dysplasia
___ NIL pap smear
___ - neg HR HPV
___ - neg HR HPV
___ - neg HR HPV
___- + HR HPV
___- + HR HPV
___ ASC-H, +HR HPV

At her ___ clinic visit, she had pain with pelvic exams 
but otherwise denied anyabdominal or pelvic pain.  She reported 
monthly cycles off birth
control.  She denied any mid-cycle bleeding.  

 
Past Medical History:
Oncologic Hx:
___ NIL paps
___ pap ATYPICAL GLANDULAR CELLS - can not exclude High 
Grade
Squamous Intraepithelial Lesion in glands vs. glandular
dysplasia. 
___ LEEP with CIN3 +endocervical margin
___ LEEP with CIN2-3, focally + margin
___ Pap smear with atypical squamous cells of
undetermined significance favoring high-grade squamous intra-
epithelial lesion. 
___ colpo inadequate with neg bx, ECC high-grade
squamous intra-epithelial lesion.
___ LEEP with no dysplasia
___ NIL pap smear
___ - neg HR HPV
___ - neg HR HPV
___ - neg HR HPV
___- + HR HPV
___- + HR HPV
___ ASC-H, +HR HPV

PMH: h/o epilepsy; hypertension
PSH: LEEP x 3; cesarean section x 1
OBHx: G3P1; C-section in ___, TAB ___, ectopic ___
All: NKDA 
 
Social History:
___
Family History:
- Aunt died of cervical cancer, lived in ___, no routine medical
care.
- Denies a known family history of breast, ovarian, uterine,
 or colon malignancy
- Denies family history of bleeding or clot disorders 

 
Physical Exam:
==========================================
PREOPERATIVE PHYSICAL EXAM
==========================================
General: NAD, well-appearing, pleasant
HEENT: NC/AT, mmm
Lymph nodes: no cervical supraclavicular or inguinal adenopathy
CV: RRR, no murmurs 
Resp: CTAB
Abd: soft, pfannensteil incision, NT, uterus palpated
suprapubically
Pelvic: Normal external female genital, smooth vagina with thin
discharge, ectocervix/cervical os not clearly visualized with
scarring of upper vagina, no lesions
Bimanual: anterior cervix deviated to the left, small, no
nodularity or mass, uterus adherent to anterior abdominal wall
Ext: No calf tenderness, no edema 

==========================================
PHYSICAL EXAM ON DISCHARGE:
==========================================
On day of discharge:
Afebrile, vitals stable
General: NAD, resting comfortably in bed, A&Ox3
CV: RRR
Lungs: LCTAB, no respiratory distress
Abd: soft, nontender, nondistended, +BS
GU: pad with scant spotting(last changed at 3:45 AM)
Extremities: no calf tenderness/erythema in BLE

 
Pertinent Results:
==========================================
LABS ON ADMISSION
==========================================
None
==========================================
IMAGING ON ADMISSION
==========================================
None
==========================================
RELEVANT LABS:
==========================================
___ 08:25AM BLOOD WBC-9.1# RBC-3.90 Hgb-11.2 Hct-34.6
==========================================
RELEVANT IMAGING:
==========================================
None
==========================================
LABS ON DISCHARGE
==========================================
___ 08:25AM BLOOD WBC-9.1# RBC-3.90 Hgb-11.2 Hct-34.6 
MCV-89# MCH-28.7 MCHC-32.4 RDW-13.3 RDWSD-43.6 Plt ___
___ 08:25AM BLOOD Glucose-134* UreaN-10 Creat-0.9 Na-139 
K-5.0 Cl-103 HCO3-23 AnGap-13
___ 08:25AM BLOOD Calcium-8.5 Phos-3.4 Mg-1.9
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology 
service after undergoing Cold Knife Conization for atypical 
squamous cells. Please see the operative report for full 
details.  

*)Post-op course 
Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with PO 
oxycodone/acetaminophen/ibuprofen. She was kept overnight to 
monitor for heavy bleeding. Her bleeding resolved. 
By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Enalapril maleate 5 mg tablet daily

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *acetaminophen 500 mg ___ tablet(s) by mouth Q6HR Disp #*40 
Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*15 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Q6HR Disp #*40 Tablet 
Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4HR Disp #*8 Tablet 
Refills:*0 
5.  Enalapril Maleate 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atypical squamous cells in cervix

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You underwent a CKC procedure at the hospital. The team now 
feels that it is safe for you to go home. Please follow the 
instructions below:
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Please monitor your pad count and usage. If you notice that your 
bleeding increases and you are using more than 1 pad an hour 
that becomes saturated, please call your doctor at the number 
below.
*nothing in the vagina (no intercourse, no douching, no tampons) 
for the next 4 weeks. 
-You can shower today
-No bathtubs, hot tubs, swimming pools
-You may go back to your usual diet
.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___